US05310913
N,N-dicyklohexylcarbodiimide (2.2 parts) is added to a mixture consisting of 1,2-dihydro-4-hydroxy-2-oxo-quinoline-3-carboxylic acid (2.0 parts), N-metylaniline (1.1 parts) and dry toluene (25 parts) while stirring. The stirring is continued at 110° C. for 4 hrs. The reaction mixture is cooled to room temperature and the precipitate formed is filtered off. The precipitate is dissolved at pH 8.2 in 2M sodium hydroxide solution and clarified by filtration to remove the N,N-dicyklohexylurea formed. The solution is acidified with hydrochloric acid solution and the precipitate formed is filtered off. The precipitate is washed with water and methanol and dried to give N-methyl-N-phenyl-1,2-dihydro-4-hydroxy-2-oxo-quinoline-3-carboxamide, m p>300° C. (1:1).

reactant | 1,2-dihydro-4-hydroxy-2-oxo-quinoline-3-carboxylic acid | OC1=C(C(NC2=CC=CC=C12)=O)C(=O)O | C10H7NO4
reactant | N-metylaniline | CNC1=CC=CC=C1 | C7H9N
reactant | hydrochloric acid | Cl | ClH
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | N-methyl-N-phenyl-1,2-dihydro-4-hydroxy-2-oxo-quinoline-3-carboxamide | CN(C(=O)C=1C(NC2=CC=CC=C2C1O)=O)C1=CC=CC=C1 | C17H14N2O3
